US04080443
4((6-Chloro-2-pyridyl)oxy)phenol
A mixture of 11 grams of 2-chloro-6-(4-methoxyphenoxy)pyridine, prepared above in Example IX and 100 milliliters of 48 percent hydrobromic acid was heated at reflux overnight. The reaction mixture was cooled and diluted with water. The 4-((6-chloro-2-pyridyl)oxy)phenol separated out as a yellow crystalline solid which was isolated by filtration. The product was recovered in a yield of 10 grams (97 percent of theoretical) and melted at 125°-130° C.

reactant | 2-chloro-6-(4-methoxyphenoxy)pyridine | 11 grams | ClC1=NC(=CC=C1)OC1=CC=C(C=C1)OC | C12H10ClNO2
reactant | hydrobromic acid | 100 milliliters | Br | BrH
solvent | water | O | H2O
product | 4((6-Chloro-2-pyridyl)oxy)phenol | ClC1=CC=CC(=N1)OC1=CC=C(C=C1)O | C11H8ClNO2
